US04435569
Production of 2-amino-5-dibenzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one
In 30 ml of methanol was dissolved 172 mg of 2-amino-5-benzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one (the compound of Example 4), followed by addition of 90 mg of anhydrous potassium carbonate, 2 mg of sodium iodide and 81 mg of benzyl chloride. The mixture was stirred on a water bath at 60° C. for 4 hrs. The solvent was then distilled off and the residue was purified by silica gel column chromatography to give 57 mg of the desired compound.

reactant | 2-amino-5-benzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one | 172 mg | NC1=NC(C=2C(=N1)N=CC2CNCC2=CC=CC=C2)=O | C14H13N5O
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 81 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 30 ml | CO | CH4O
catalyst | sodium iodide | 2 mg | [I-].[Na+]
product | 2-amino-5-dibenzylaminomethylpyrrolo[2,3-d]pyrimidin-4-one | 57 mg | NC1=NC(C=2C(=N1)N=CC2CN(CC2=CC=CC=C2)CC2=CC=CC=C2)=O | C21H19N5O
